US05563163
The 4-(1,1-dimethylethyl) saccharin (0.025 g 1.0 mmol) was mixed with chloromethyl phenyl sulfide (0.25 g, 1.5 mmol) and tetrabutyl ammonium bromide (0.2 g, 0.6 mmol) in toluene (25 mL) and refluxed under nitrogen for 16 hr. The resulting mixture was cooled to room temperature, evaporated to dryness and purified by chromatography on silica gel (80%) MDC in hexanes) to give 0.35 g (98%) of 2-phenylthiomethyl-4-(1,1-dimethylethyl]saccharin, which was treated with sulfuryl chloride (0.25 g, 1.8 mmol) in MDC to give 0.21g (75%) of 2-chloromethyl-4-(1,1-dimethylethyl]saccharin.

reactant | 4-(1,1-dimethylethyl) saccharin | 1.0 mmol, 0.025 g | CC(C)(C)C1=C2C(NS(=O)(=O)C2=CC=C1)=O | C11H13NO3S
reactant | chloromethyl phenyl sulfide | 1.5 mmol, 0.25 g | C1(=CC=CC=C1)SCCl | C7H7ClS
catalyst | tetrabutyl ammonium bromide | 0.6 mmol, 0.2 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | 2-phenylthiomethyl-4-(1,1-dimethylethyl]saccharin | 0.35 g, 98% | C1(=CC=CC=C1)SCN1S(=O)(=O)C2=CC=CC(=C2C1=O)C(C)(C)C | C18H19NO3S2
